US07718683B2
Thionyl chloride (220 mL, 3.02 mol) was introduced to a 1 L round bottom flask fitted with a magnetic stir bar. 2-(4-tert-Butyl-benzenesulfonylamino)-5-chloro-4-fluoro-benzoic acid (22 g, 57.0 mmol) was added under rapid agitation and the mixture was heated at reflux under a nitrogen atmosphere. The reaction progress was monitored by the addition of a few drops of the reaction mixture into ˜1 mL of 2.0 M dimethylamine in THF, followed by LCMS analysis. Complete conversion to the dimethyl amide was observed at 1.25 h. The crude mixture was subsequently concentrated in vacuo to produce an orange oil. Hexane (50 mL) was added to the flask and the mixture concentrated again to afford 2-(4-tert-butyl-benzenesulfonylamino)-5-chloro-benzoyl chloride as an orange crystalline solid which was utilized direction in the next step.

reactant | Thionyl chloride | 3.02 mol, 220 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(4-tert-Butyl-benzenesulfonylamino)-5-chloro-4-fluoro-benzoic acid | 57.0 mmol, 22 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=O)O)C=C(C(=C1)F)Cl | C17H17ClFNO4S
reactant | dimethylamine | 2.0 M, ˜1 mL | CNC | C2H7N
reactant | dimethyl amide | C[N-]C
solvent | THF | C1CCOC1 | C4H8O
solvent | Hexane | 50 mL | CCCCCC | C6H14
product | 2-(4-tert-butyl-benzenesulfonylamino)-5-chloro-benzoyl chloride | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=O)Cl)C=C(C=C1)Cl | C17H17Cl2NO3S
